US07846923B2
4. 3-(9-Ethyl-8-imino-8,9-dihydro-3H-3,4,9-triaza-cyclopenta[a]naphthalen-7-yl)-5-methoxy-benzoic acid ethyl ester
4-Ethylamino-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde (1 g, 5.3 mmol) and 3-cyanomethyl-5-methoxy-benzoic acid ethyl ester (1.3 g, 5.8 mmol) are dissolved in ethanol (4 mL) and piperidine (2 mL, 21.2 mmol) is added at room temperature. The reaction mixture is heated at 120° C. and stirred for 24 h. The reaction mixture is then concentrated and dried to yield the crude product. The crude product is used for the next step without any further purification. MS m/z 391.1 (M+1).

reactant | 4-Ethylamino-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde | 5.3 mmol, 1 g | C(C)NC1=C2C(=NC=C1C=O)NC=C2 | C10H11N3O
reactant | 3-cyanomethyl-5-methoxy-benzoic acid ethyl ester | 5.8 mmol, 1.3 g | C(C)OC(C1=CC(=CC(=C1)OC)CC#N)=O | C12H13NO3
reactant | piperidine | 21.2 mmol, 2 mL | N1CCCCC1 | C5H11N
reactant | ethanol | 4 mL | C(C)O | C2H6O
product | 3-(9-Ethyl-8-imino-8,9-dihydro-3H-3,4,9-triaza-cyclopenta[a]naphthalen-7-yl)-5-methoxy-benzoic acid ethyl ester | C(C)OC(C1=CC(=CC(=C1)OC)C1=CC2=CN=C3C(=C2N(C1=N)CC)C=CN3)=O | C22H22N4O3
